US05141955
4,4-Dimethyl-2-(2-benzylseleno-3-fluorophenyl)-1,3-oxazoline
To a solution of 30.0 g 4,4-dimethyl-2-(3-fluorophenyl)-1,3-oxazoline in 400 ml anhydrous tetrahydrofuran that has been cooled to -45° C. is added dropwise with stirring 100 ml of a 1.6M solution of n-butyllithium in hexane at such a rate that the temperature does not rise above -40° C. (25 minutes). After stirring for two hours at -45° C. the reaction mixture is warmed to 0° C. and treated dropwise within 20 minutes with a solution of 54.7 g (0.16 mol) dibenzyl diselenide in 250 ml anhydrous tetrahydrofuran. The reaction mixture is then stirred for 18 hours at room temperature. The contents of the flask are taken up in 300 g ice and 300 ml water and extracted twice with 300 ml portions of diethyl ether. The organic phase is extracted successively with 200 ml water, 200 ml 10% sodium hydrogen carbonate solution and 200 ml water, dried over sodium sulfate and the solvent removed in vacuum. The crude product (58.3 g) is purified by column chromatography (silica gel/dichloromethane).

reactant | 4,4-dimethyl-2-(3-fluorophenyl)-1,3-oxazoline | 30.0 g | CC1(N=C(OC1)C1=CC(=CC=C1)F)C | C11H12FNO
reactant | n-butyllithium | C(CCC)[Li]
reactant | dibenzyl diselenide | 0.16 mol, 54.7 g | C(C1=CC=CC=C1)[Se][Se]CC1=CC=CC=C1 | C14H14Se2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4,4-Dimethyl-2-(2-benzylseleno-3-fluorophenyl)-1,3-oxazoline | CC1(N=C(OC1)C1=C(C(=CC=C1)F)[Se]CC1=CC=CC=C1)C | C18H18FNOSe
